US06069156
To a solution of 1-(2-chlorobenzyl)-2-(1-hydroxypropyl)-3-isobutyrylindole-6-carboxamide (19 mg) in acetone (3 ml) was added Jone's reagent until the red color existed continuously. The reaction was quenched by 2-propanol, then the mixture was diluted with ethyl acetate and washed with aqueous sodium bicarbonate and brine. The organic phase was dried over sodium sulfate and evaporated in vacuo. The residue was triturated with diisopropyl ether to give 1-(2-chlorobenzyl)-3-isobutyryl-2-propionylindole-6-carboxamide (9.3 mg).

reactant | 1-(2-chlorobenzyl)-2-(1-hydroxypropyl)-3-isobutyrylindole-6-carboxamide | 19 mg | ClC1=C(CN2C(=C(C3=CC=C(C=C23)C(=O)N)C(C(C)C)=O)C(CC)O)C=CC=C1 | C23H25ClN2O3
solvent | acetone | 3 ml | CC(=O)C | C3H6O
product | 1-(2-chlorobenzyl)-3-isobutyryl-2-propionylindole-6-carboxamide | 9.3 mg | ClC1=C(CN2C(=C(C3=CC=C(C=C23)C(=O)N)C(C(C)C)=O)C(CC)=O)C=CC=C1 | C23H23ClN2O3
